US08981085B2
(R)-tert-Butyl 1-(5-bromo-3-(3-(trifluoromethyl)benzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (150 mg, 0.258 mmol) was treated with TFA (1 mL) followed by 1M HCl as described in Example 62, Step C, to provide (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-(trifluoromethyl)benzamide hydrochloride (0.130 g, 91% yield) as a solid. 1H NMR (400 MHz, D2O) δ 8.24 (s, 1H), 8.12 (s, 1H), 8.05-8.04 (d, 1H), 7.88-7.86 (d, 1H), 7.66-7.62 (m, 1H), 7.42 (s, 1H), 3.63-3.60 (m, 1H), 3.36-3.32 (m, 1H), 3.22-3.17 (m, 2H), 3.13-3.08 (m, 1H), 1.84-1.81 (m, 1H), 1.65-1.61 (m, 1H), 1.45-1.42 (m, 1H), 1.34-1.31 (m, 1H); LCMS (APCI+) m/z 482, 484 (M+H)+.

reactant | (R)-tert-Butyl 1-(5-bromo-3-(3-(trifluoromethyl)benzamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.258 mmol, 150 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC(=CC=C2)C(F)(F)F)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H27BrF3N5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 1M | Cl | ClH
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-3-(trifluoromethyl)benzamide hydrochloride | 0.130 g, 91% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CC(=CC=C2)C(F)(F)F)=O | InChI=1S/C20H19BrF3N5O.ClH/c21-14-8-26-18-16(17(14)29-6-2-5-13(25)10-29)15(9-27-18)28-19(30)11-3-1-4-12(7-11)20(22,23)24;/h1,3-4,7-9,13H,2,5-6,10,25H2,(H,26,27)(H,28,30);1H/t13-;/m1./s1
